US07833820B2
1,1,1,4,4-Pentachloro-7-phenyl-1,4-disilaheptane
18.77 g (0.159 mol) allylbenzene and 50 μl H2PtCl6/IPA solution were added to a 100 ml vessel. Solution was heated up to 80° C. and 41.85 g (0.159 mol) 1,1,1,4,4-pentachloro-1,4-disilabutane was added slowly during 30 min. Heat was switched off when exothermic reaction was observed. Temperature during the addition was kept below 130° C. After addition heat was again switched on and solution was stirred for an hour at 110° C. After that product was purified by distillation. B.p. 137° C./0.8 mbar. Yield 35.10 g (58%).

reactant | allylbenzene | 0.159 mol, 18.77 g | C(C=C)C1=CC=CC=C1 | C9H10
reactant | 1,1,1,4,4-pentachloro-1,4-disilabutane | 0.159 mol, 41.85 g | Cl[Si](CC[SiH](Cl)Cl)(Cl)Cl | C2H5Cl5Si2
product | 1,1,1,4,4-Pentachloro-7-phenyl-1,4-disilaheptane | Cl[Si](CC[Si](CCCC1=CC=CC=C1)(Cl)Cl)(Cl)Cl | C11H15Cl5Si2
